US06057369
To a solution of 2 g (11.22 mmol) of 5-phenylvaleric acid in 75 mL of CH2Cl2 at 0° C. under argon is added 2 drops of DMF followed by 7 mL (14.03 mmol) of oxalyl chloride. This stirred at 25° C. for 1 hour, then 1.4 g (14.03 mmol) of N,O-dimethylhydroxylamine hydrochloride and 2.7 mL (33.66 mmol, 3 eq) of pyridine are added sequentially and stirred for 72 hours at 25° C. The reaction is partitioned between CH2Cl2 and 1 N HCl. The organic layer is dried over anhydrous Na2SO4 and concentrated in vacuo to give 2.5 g (100%) of 5-phenylpentanoic acid-methoxy-methyl-amide in the form of a yellow oil.

reactant | 5-phenylvaleric acid | 11.22 mmol, 2 g | C1(=CC=CC=C1)CCCCC(=O)O | C11H14O2
reactant | oxalyl chloride | 14.03 mmol, 7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 14.03 mmol, 1.4 g | Cl.CNOC
reactant | pyridine | 33.66 mmol, 2.7 mL, 3 eq | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 5-phenylpentanoic acid-methoxy-methyl-amide | 2.5 g, 100% | CON(C(CCCCC1=CC=CC=C1)=O)C | C13H19NO2
